US04202901
The mixture of 13.1 g of 5-(m-chloro-benzyloxy)-2-pyridinemethanol and 250 ml of water is stirred vigorously at 25°. To this mixture is added 11.5 g of potassium permanganate in several portions. Then the mixture is filtered, the precipitated manganese dioxide washed with hot water, the washing is combined with the filtrate, concentrated to a small volume and then acidified with aqueous hydrochloric acid. The precipitated product is collected and recrystallized from ethyl acetate to yield 5-(3-chloro-benzyloxy)-2-pyridinecarboxylic acid melting at 176°-177°.

reactant | 5-(m-chloro-benzyloxy)-2-pyridinemethanol | 13.1 g | ClC=1C=C(COC=2C=CC(=NC2)CO)C=CC1 | C13H12ClNO2
reactant | potassium permanganate | 11.5 g | [Mn](=O)(=O)(=O)[O-].[K+]
solvent | water | 250 ml | O | H2O
product | 5-(3-chloro-benzyloxy)-2-pyridinecarboxylic acid | ClC=1C=C(COC=2C=CC(=NC2)C(=O)O)C=CC1 | C13H10ClNO3
